US09125901B2
2-methoxyethaneamine (1.5 mL) is added to a solution of 4-fluoro-3-nitrobiphenyl (200 mg, 0.92 mmol) in ethanol. The reaction may be stirred at room temperature overnight and concentrated. The residue may be purified by any appropriate method, such as Biotage column chromatography to give N-(2-methoxyethyl)-3-nitrobiphenyl-4-amine (228 mg).

reactant | 2-methoxyethaneamine | 1.5 mL | COCCN | C3H9NO
reactant | 4-fluoro-3-nitrobiphenyl | 0.92 mmol, 200 mg | FC1=C(C=C(C=C1)C1=CC=CC=C1)[N+](=O)[O-] | C12H8FNO2
solvent | ethanol | C(C)O | C2H6O
product | N-(2-methoxyethyl)-3-nitrobiphenyl-4-amine | 228 mg | COCCNC1=C(C=C(C=C1)C1=CC=CC=C1)[N+](=O)[O-] | C15H16N2O3
